US09422240B2
4-(Cyclopropylmethoxy)benzaldehyde
To a mixture of 4-hydroxybenzaldehyde (2.00 g), potassium carbonate (4.53 g) and acetone (50.0 mL), (bromomethyl)cyclopropane (3.32 g) was added and the mixture was refluxed for 9 hours. After cooling the reaction mixture to room temperature, the resulting precipitate was removed by filtration through Celite (registered trademark). The filtrate was concentrated under reduced pressure and, thereafter, the resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=90:10-50:50) to give the titled compound as a colorless oil (2.63 g).

reactant | 4-hydroxybenzaldehyde | 2.00 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 4.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)cyclopropane | 3.32 g | BrCC1CC1 | C4H7Br
solvent | acetone | 50.0 mL | CC(=O)C | C3H6O
product | 4-(Cyclopropylmethoxy)benzaldehyde | 2.63 g | C1(CC1)COC1=CC=C(C=O)C=C1 | C11H12O2
